US08623859B2
2-{4-[(3aR,7aR)-octahydro-1H-benzimidazol-2-yl]phenyl}ethanamine
tert-butyl (2-{4-[(3aR,7aR)-octahydro-1H-benzimidazol-2-yl]phenyl}ethyl)carbamate (50 mg, 0.15 mmol) was stirred in a 4:1 mixture of DCM:TFA (1 mL) at ambient temperature for 18 h. The reaction was concentrated in vacuo and the crude product used without further purification.

reactant | tert-butyl (2-{4-[(3aR,7aR)-octahydro-1H-benzimidazol-2-yl]phenyl}ethyl)carbamate | 0.15 mmol, 50 mg | N1C(N[C@H]2[C@H]1CCCC2)C2=CC=C(C=C2)CCNC(OC(C)(C)C)=O | C20H31N3O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-{4-[(3aR,7aR)-octahydro-1H-benzimidazol-2-yl]phenyl}ethanamine | N1C(N[C@H]2[C@H]1CCCC2)C2=CC=C(C=C2)CCN | C15H23N3
